US06531479B2
{4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl}-(4-fluoro-phenyl)-amine {21}
To a mixture of 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone (1.0 mmol, 0.21 g) and N-(4-fluoro-phenyl)-guanidine nitrate (2.0 mmol, 0.44 g) in 2-methoxyethanol (5 mL) was added NaOH (40 mg). The reaction mixture was refluxed under N2 for 24 h. The solvent was evaporated to dryness and the residue was purified by flash chromatography (EtOAc/PE, 2:1) and recrystallisation from EtOAc/PE to afford the title compound as brown crystals (269 mg, 89%). 1H-NMR (300 MHz, CDCl3) δ 2.69 (s, 3H, CH3), 2.71 (s, 3H, CH3), 6.93 (d, 1H, J=5.3 Hz, pyrimidinyl-H), 7.03 (m, 2H, Ph-H), 7.58 (m, 2H, Ph-H), 8.40 (d, 1H, J=5.3 Hz, pyrimidinyl-H).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | 1.0 mmol, 0.21 g | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-(4-fluoro-phenyl)-guanidine nitrate | 2.0 mmol, 0.44 g | [N+](=O)(O)[O-].FC1=CC=C(C=C1)NC(=N)N
reactant | NaOH | 40 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | {4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl}-(4-fluoro-phenyl)-amine | 269 mg, 89% | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)F | C15H13FN4S
